US03995060
B. 4'-Iodo-3'-trifluoromethylisobutyranilide
To a solution of 23.0 g. of 4'-amino-3'-trifluoromethylisobutyranilide in 150 ml. of glacial acetic acid and 100 ml. of water, while maintaining the mixture temperature at 10°-20° C, slowly add 17 ml. of concentrated sulfuric acid, cool the resulting mixture to about 0° C and slowly add 8.5 g. of sodium nitrite in 15 ml. of water maintaining the temperature of the reaction at about 0° C for 30 minutes. Add 50 g. of potassium iodide in 150 ml. of water and stir the resulting mixture for 1 hour. Filter, water-wash and dissolve the precipitate in 200 ml. of ether and remove the iodine by washing with a 10% sodium sulfite solution. Dry, remove the solvent, and recrystallize from carbon tetrachloride, obtaining the compound of this example, m.p. 143°-145° C.

reactant | 4'-amino-3'-trifluoromethylisobutyranilide | NC1=C(C=C(NC(C(C)C)=O)C=C1)C(F)(F)F | C11H13F3N2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4'-Iodo-3'-trifluoromethylisobutyranilide | IC1=C(C=C(NC(C(C)C)=O)C=C1)C(F)(F)F | C11H11F3INO
